US06562828B1
7-Methylthiomethoxy-1,2,3,4-tetrahydroisoquinoline-2-carboxylic Acid tert-Butyl Ester
To a solution of 7-hydroxy-1,2,3,4-tetrahydroisoquinoline-2-carboxylic acid tert-butyl ester (13 g) in dirnethylformamide (100 ml) was added 60% sodium hydride (2.5 g) under an argon atmosphere, and the mixture was stirred at room temperature for 30 minutes. Then, chloromethyl methyl sulfide (5.2 ml) was dropwise added with ice-cooling, and the mixture was stirred at room temperature overnight. After completion of the reaction, the reaction mixture was poured into water, extracted with ethyl acetate and washed successively with water and saturated brine. The organic layer was dried over anhydrous sodium sulfate and the solvent was evaporated and the obtained residue was purified by silica gel column chromatography (hexane:acetone=20:1-10:1) and dried under reduced pressure to give the title compound (9.6 g).

reactant | 7-hydroxy-1,2,3,4-tetrahydroisoquinoline-2-carboxylic acid tert-butyl ester | 13 g | C(C)(C)(C)OC(=O)N1CC2=CC(=CC=C2CC1)O | C14H19NO3
reactant | sodium hydride | 2.5 g | [H-].[Na+]
reactant | chloromethyl methyl sulfide | 5.2 ml | CSCCl | C2H5ClS
reactant | water | O | H2O
solvent | dirnethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | 7-Methylthiomethoxy-1,2,3,4-tetrahydroisoquinoline-2-carboxylic Acid tert-Butyl Ester | 9.6 g | C(C)(C)(C)OC(=O)N1CC2=CC(=CC=C2CC1)OCSC | C16H23NO3S
